US07652009B2
Step 1: Preparation of benzyl 1-(3-fluoro-4-methoxyphenyl)-5-oxopyrrolidin-3-ylcarbamate
A solution of 1-(3-fluoro-4-methoxyphenyl)-5-oxopyrrolidine-3-carboxylic acid (1.5 g, 5.92 mmol), BnOH (1.92 g, 17.76 mmol), Et3N (1.24 mL, 8.88 mmol) and DPPA (1.84 g, 7.12 mmol) in 100 mL of toluene was heated to 120° C. for 6 h. The reaction was cooled to RT and concentrated in vacuo. The residue was purified by chromatography on a silica gel column (10% to 70% EtOAC/hexane) to give the title compound as colorless crystal. MS (ESI pos. ion) m/z: 359.4 (M+H). Calc'd Exact Mass for C19H19FN2O4: 358.36.

reactant | 1-(3-fluoro-4-methoxyphenyl)-5-oxopyrrolidine-3-carboxylic acid | 5.92 mmol, 1.5 g | FC=1C=C(C=CC1OC)N1CC(CC1=O)C(=O)O | C12H12FNO4
reactant | BnOH | 17.76 mmol, 1.92 g | C(C1=CC=CC=C1)O | C7H8O
reactant | Et3N | 8.88 mmol, 1.24 mL | CCN(CC)CC | C6H15N
reactant | DPPA | 7.12 mmol, 1.84 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl 1-(3-fluoro-4-methoxyphenyl)-5-oxopyrrolidin-3-ylcarbamate | FC=1C=C(C=CC1OC)N1CC(CC1=O)NC(OCC1=CC=CC=C1)=O | C19H19FN2O4
